US07259183B2
Preparation of 4-Fluoro-5-methyl-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide 210 and Other Compounds of Formula I
A solution of 4-fluoro-5-methyl-1H-indole-7-carboxylic acid ethyl ester (50 mg, 0.23 mmol) in THF (0.7 mL) was treated with 2 M aq. potassium hydroxide solution (0.23 mL, 0.46 mmol), and the reaction mixture was heated under reflux. After 64 h, the solution was evaporated, the residue dissolved in DMF (3.2 mL) and treated with (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amine (71 mg, 0.25 mmol), N-methylmorpholine (69 mg, 0.68 mmol), and HBTU (129 mg, 0.34 mmol). After 16 h, the reaction mixture was partitioned between water and EtOAc, the organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography of the residue (SiO2, heptane-EtOAc gradient) afforded the title compound (71 mg, 68%). Yellow oil, MS (EI) 176.1 (100), 351.2 (19), 460.2 (14, M+).

reactant | 4-fluoro-5-methyl-1H-indole-7-carboxylic acid ethyl ester | 0.23 mmol, 50 mg | C(C)OC(=O)C=1C=C(C(=C2C=CNC12)F)C | C12H12FNO2
reactant | potassium hydroxide | 0.46 mmol, 2 M, 0.23 mL | [OH-].[K+]
reactant | (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amine | 0.25 mmol, 71 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC=C(C=C2)F)C=C1 | C19H24FN
reactant | N-methylmorpholine | 0.68 mmol, 69 mg | CN1CCOCC1 | C5H11NO
reactant | HBTU | 0.34 mmol, 129 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
product | 4-Fluoro-5-methyl-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide | 71 mg, 68% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C(=C3C=CNC23)F)C)CCC2=CC=C(C=C2)F)C=C1 | C29H30F2N2O
